US04002601
N,N'-Bis-[(1,3-oxazolidin-3-yl)-ethoxycarbonyl]-1,6-diaminohexane
117 g (1 mol) of 2-(1,3-oxazolidin-3-yl)-ethanol are reacted with 84 g (0.5 mol) of hexamethylene diisocyanate in 20 g of xylene by the method described in Example 1. This reaction is catalyzed by the addition of 0.05 g of Sn(II) octoate and is carried out first at 30° C and later at 50° C. The product obtained, which is about 90% pure, is solid at room temperature, but a pourable liquid at 50° C.

reactant | 2-(1,3-oxazolidin-3-yl)-ethanol | 1 mol, 117 g | O1CN(CC1)CCO | C5H11NO2
reactant | hexamethylene diisocyanate | 0.5 mol, 84 g | C(CCCCCN=C=O)N=C=O | C8H12N2O2
solvent | xylene | 20 g | C=1(C(=CC=CC1)C)C | C8H10
product | N,N'-Bis-[(1,3-oxazolidin-3-yl)-ethoxycarbonyl]-1,6-diaminohexane | O1CN(CC1)CCOC(=O)NCCCCCCNC(=O)OCCN1COCC1 | C18H34N4O6
